US06297375B1
g) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-isobutyramide
A solution of 20 g (67.5 mmol) methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine and 17.5 ml (101 mmol) N-ethyldiisopropylamine in 200 ml dichloromethane was cooled in an ice bath and a solution of 24 g (75 mmol)2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 50 ml dichloromethane was added dropwise. The reaction mixture was warmed to 35-40° C. for 3 h, cooled to room temperature again and was stirred with 250 ml saturated sodium bicarbonate solution. The organic layer was separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to give 31.6 g (81%) of the title compound as white crystals. M.p. 155-157° C.

reactant | methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine | 67.5 mmol, 20 g | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C | C18H24N4
reactant | N-ethyldiisopropylamine | 101 mmol, 17.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 75 mmol, 24 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-isobutyramide | 31.6 g, 81% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C)C)(C)C)(F)F | C30H32F6N4O
